US05061794
Preparation of sodium 7β-[2-(2-aminothiazol-4-yl)-2methoxyiminoacetamido]-3-( 5-phenyloxazol-2-yl)thiomethyl-3-cephem-4-carboxylate (syn-isomer)
The same operation as in EXAMPLE 65 was conducted by using 600 mg (0.71 mmol) of benzhydryl 3-chloromethyl-7β-[2-methoxyimino-2-( 2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn-isomer), 160 mg (1.07 mmol) of sodium iodide and 130 mg (0.72 mmol) of 2-mercapto-5-phenyloxazole, whereby 70 mg (yield: 7.1%) of the above identified compound was obtained.

reactant | benzhydryl 3-chloromethyl-7β-[2-methoxyimino-2-( 2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 0.71 mmol, 600 mg | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOC)=O)=O | C46H38ClN5O5S2
reactant | sodium iodide | 1.07 mmol, 160 mg | [I-].[Na+]
reactant | 2-mercapto-5-phenyloxazole | 0.72 mmol, 130 mg | SC=1OC(=CN1)C1=CC=CC=C1 | C9H7NOS
product | sodium 7β-[2-(2-aminothiazol-4-yl)-2methoxyiminoacetamido]-3-( 5-phenyloxazol-2-yl)thiomethyl-3-cephem-4-carboxylate | yield: 7.1% | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2OC(=CN2)C2=CC=CC=C2)C(=O)[O-])C1=O)=NOC.[Na+] | InChI=1S/C23H20N6O6S3.Na/c1-34-28-15(13-10-37-22(24)26-13)18(30)27-16-19(31)29-17(21(32)33)12(8-36-20(16)29)9-38-23-25-7-14(35-23)11-5-3-2-4-6-11;/h2-7,10,16,20H,8-9H2,1H3,(H2,24,26)(H,27,30)(H,32,33);/q;+1/p-1/t16-,20-;/m1./s1
